US05112998
To a solution of 0.402 g (1 mmole) of 1α,2α;6α,7α-diepoxy-21,21-dimethoxy-20-methylpregn-4-en-3-one in 30 ml of tetrahydrofuran was added 38 mg (1 mmole) of sodium borohydride at a temperature of 0° C. and the mixture was stirred at 0° C. for 30 minutes. The reaction mixture was diluted with water and neutralized by adding cold 1N-hydrochloric acid in small portions. From this mixture, the tetrahydrofuran was distilled off under reduced pressure at a temperature not exceeding 20° C. and the residue was diluted with water and extracted with methylene chloride. The extract was washed with aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was then distilled off under reduced pressure. Finally the residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane =1:10, v/v) to recover 0.250 g of 1α,2α;6α,7α-diepoxy-21,21-dimethoxy-20-methylpregn-4-en-3β-ol (yield: 62%).

reactant | 6α,7α-diepoxy-21,21-dimethoxy-20-methylpregn-4-en-3-one | O1[C@@]23[C@H]([C@H]4[C@@H]5CC[C@H](C(C(OC)OC)C)[C@]5(CC[C@@H]4[C@]4(CCC(C1=C24)=O)C)C)O3 | C24H34O5
reactant | sodium borohydride | 1 mmole, 38 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 6α,7α-diepoxy-21,21-dimethoxy-20-methylpregn-4-en-3β-ol | yield: 62% | O1[C@@]23[C@H]([C@H]4[C@@H]5CC[C@H](C(C(OC)OC)C)[C@]5(CC[C@@H]4[C@]4(CC[C@@H](C1=C24)O)C)C)O3 | C24H36O5
